Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ year old male with PMHx hemorrhoids s/p band
ligation x 3 (___) and ___ who presents with 2.5 weeks of 
dark
blood per rectum.

Over the ___, he had hemorrhoids banded with Dr. ___
in ___ and had no further bleeding until 2.5 weeks ago when he
started to notice bleeding with bowel movements. He describes
that the blood seemed to coat his stool and filled the toilet
bowel, making the water red. He describes no bleeding in between
bowel movements. He has no rectal pain or urgency and denies
abdominal pain. 

Associated symptoms include general malaise.
He presented to his PCP where he had labs drawn on ___ that
showed an H&H of 6.4/21.7 and so was referred into the emergency
department. 

He reports no dizziness, lightheadedness, CP, or SOB. However,
does note decreased exercise tolerance. 
Positive for chills and malaise over ___ 2 weeks. 
No fevers. No dysuria. 
___ in ___ showing only large internal hemorrhoids.

In the ED:
- Initial vital signs were notable for: 
T 97 HR 69 BP 107/72 RR 16 O2 Sat 100% RA

- Exam notable for:
GU: Skin tag perirectally. No external rectal lesions noted. No
stool or blood produced on rectal exam.
Otherwise unremarkable physical exam.

- Labs were notable for:
-- CBC: WBC 5.4, Hgb 6.0 with MCV 83 -> 7.7 (after 2U RBC), Plt
251
-- Chem panel: Unremarkable with Cr 0.8
-- Coags: ___ 13.0, PTT 32.2, INR 1.2

- Studies performed include:
-- EKG showing NSR at 64
-- No other studies done

- Patient was given:
-- 2U RBC

- Consults:
GI and and surgery were consulted.
(1) GI: Consider diverticular bleed, angeioectasis and 
malignancy
but all of these are unlikely given recent negative studies and
no symptoms to suggest inflammatory / infectious colitis. They
suspect this is hemorrhoids and will consider flex sig on
___. If the patient develops rapid overt bleeding and
hemodynamic instability, get a CT angiography.

(2) Surgery: No acute or emergent surgical interventions. He may
benefit from elective hemorrhoidectomy as an outpatient. Admit 
to
medicine for resuscitation and workup of other causes of anemia.

Vitals on transfer: 
T 99.0 HR 64 BP 120/67 RR 16 O2 Sat 99% RA

Upon arrival to the floor, he overall feels well and does not
have any abdominal pain. His ___ bowel movement was this 
morning
and he did not notice any blood then.

In terms of symptoms, he has stairs to basement at home and
sometimes gets winded going up and down the stairs, which is 
new.
A couple weeks ago, he also walked up a hill and felt tired. On
flat ground, he is able to ambulate without dizziness or
lightheadedness. He does think that after his 2U RBC, his lungs
feel better and he overall has more energy.

He only rarely takes ibuprofen or aspirin for headache but
usually takes no NSAIDs. He has been taking his iron pills
regularly and has been warned about constipation, so he also 
eats
a high fiber diet with fruits and veggies. he does not take any
bowel regimen meds at home (including miralax, senna, colace,
Metamucil, or benefiber). He has a bowel movement once per day
and does not feel that he strains much.
 
Past Medical History:
Hemorrhoids, internal s/p banding x 3
Iron deficiency anemia
Depression
Obesity
Right lobe liver mass (per OSH records)
 
Social History:
___
Family History:
other- alive, no significant history
Father- alive, no significant history
Two brothers alive
___ aunt- brain cancer
___ GM- Diabetes, Bipolar disorder
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.4 BP 110 / 67 HR 58 RR 18 O2 Sat 98 RA
GENERAL: Alert and interactive. Obese gentleman in no acute
distress.
EYES: NCAT. PERRL, EOMI. Pale conjunctivae. Sclera anicteric and
without injection. 
ENT: MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Normal work of breathing.
ABDOMEN: Obese. Normal bowels sounds, non distended, non-tender
to deep palpation in all four quadrants.
RECTAL: External without fissure or hemorrhoids. Good tone.
MSK: No lower extremity edema.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. Normal gait, able to ambulate without
issue. A&O x 3.
PSYCH: Appropriate mood and affect

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM:
VITALS: 24 HR Data ___ updated ___ @ 1146)
    Temp: 98.0 (Tm 98.4), BP: 117/69 (110-121/63-69), HR: 61
(56-66), RR: 20 (___), O2 sat: 98% (96-98), O2 delivery: Ra  
GENERAL: Alert and interactive. Obese gentleman in no acute
distress.
EYES: NCAT. EOMI. Sclera anicteric and without injection. 
ENT: MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Normal work of breathing.
ABDOMEN: Obese. Non distended, non-tender to deep palpation in
all four quadrants.
MSK: No lower extremity edema.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Face symmetric. Speech fluent. Normal gait, able to
ambulate without issue. A&O x 3.
PSYCH: Appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:30PM   PLT COUNT-251
___ 01:30PM   NEUTS-66.8 ___ MONOS-10.1 EOS-1.7 
BASOS-0.9 IM ___ AbsNeut-3.64 AbsLymp-1.08* AbsMono-0.55 
AbsEos-0.09 AbsBaso-0.05
___ 01:30PM   WBC-5.4 RBC-2.74* HGB-6.0* HCT-22.6* MCV-83 
MCH-21.9* MCHC-26.5* RDW-15.4 RDWSD-46.0
___ 01:30PM   calTIBC-404 VIT B12-789 FOLATE->20 
___ FERRITIN-7.7* TRF-311
___ 01:30PM   IRON-29*
___ 01:30PM   LD(LDH)-146
___ 01:30PM   estGFR-Using this
___ 01:30PM   GLUCOSE-107* UREA N-10 CREAT-0.8 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 02:55PM   ___ PTT-32.2 ___
___ 08:03PM   RET AUT-2.0 ABS RET-0.05
___ 08:03PM   PLT SMR-NORMAL-WIT PLT COUNT-243
___ 08:03PM   HYPOCHROM-2+* ANISOCYT-1+* POIKILOCY-2+* 
MICROCYT-1+* POLYCHROM-1+* SPHEROCYT-2+* OVALOCYT-2+* TARGET-1+* 
SCHISTOCY-1+* TEARDROP-1+* ACANTHOCY-1+* RBCM-SLIDE REVI
___ 08:03PM   WBC-7.2 RBC-3.32* HGB-7.7* HCT-27.6* MCV-83 
MCH-23.2* MCHC-27.9* RDW-15.5 RDWSD-46.8*

DISCHARGE LABS:
================

___ 03:05PM BLOOD WBC-7.7 RBC-3.61* Hgb-8.4* Hct-30.0* 
MCV-83 MCH-23.3* MCHC-28.0* RDW-15.2 RDWSD-45.9 Plt ___
___ 07:30AM BLOOD ___
___ 07:30AM BLOOD Glucose-92 UreaN-8 Creat-0.8 Na-143 K-4.6 
Cl-106 HCO3-23 AnGap-14
___ 07:30AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.1

MICRO:
======
None

IMAGING:
========
None
 
Brief Hospital Course:
 Information for Outpatient Providers:SUMMARY STATEMENT:
====================
Mr. ___ is a ___ year old male with PMHx hemorrhoids s/p band
ligation x 3 (___) and ___ who presents with 2.5 weeks of 
dark
blood per rectum, admitted for mildly symptomatic anemia with 
Hgb
6 now s/p 2u PRBC with improvement in symptoms and no further
bleeding

TRANSITIONAL ISSUES:
=======================
PCP:
- ___ consider monitoring/follow-up on Hgb levels in the next 
week. Patient has a prescription provided for labwork.
- Patient should follow up with surgery regarding 
hemorrhoidectomy given multiple banding attempts and still with 
bleeding.
- Please note incidental finding on CT scan dated ___: 
"Ill-defined right hepatic lobe lesion corresponding to the 
previously
described hyperechoic mass on recent abdominal ultrasound is 
likely compatible with a hemangioma, however further 
characterization with dedicated abdominal MRI is recommended."

ACUTE ISSUES:
==============
# Mildly symptomatic iron-deficiency anemia
# Hemorrhodoidal bleeding
# History of internal hemorrhoids, Grade ___: s/p banding RP/LL
___ an RA/RP ___
He is now presenting Hgb 6.0, from prior ___ known of 10.5 in
___, which has now increased to 7.7 following 2U RBC in the ED.
Coags overall unremarkable with a mildly elevated INR. He is
admitted for ruling out other etiologies of anemia although of
note, the patient has had anemia in the past (with extensive GI
workup as above) and so this is likely iron deficiency anemia
secondary to hemorrhoids. He was previously on PPI in the early
___ while concerned for upper GI bleed but after his 
endoscopy
in ___ being normal, this was discontinued. He takes no 
NSAIDs.
Hgb stable in the AM with hemolysis labs negative. Folate, B12
normal. Iron studies with low ferritin, iron, TSAT ~7% 
suggesting
iron-deficiency. Reticulocyte count inappropriately normal which
could be ___ lack of iron for erythropoiesis. GI and surgery was 
consulted who felt outpatient management of hemorrhoids was 
indicated. The patient received IV ferric gluconate 125 mg x1 
prior to discharge with repeat afternoon CBC stable. He was 
continued on hydrocortisone cream and oral iron supplementation. 
He was advised to follow a high fiber diet and to take stool 
softeners daily to minimize risk of further hemorrhoidal 
bleeding. He will need to schedule an appointment with Dr. ___ 
___ surgeon) for follow-up.

Discharge Hgb: 8.4

CHRONIC ISSUES:
===============
# Depression:
Well controlled, no evidence of SI. Continued on his home 
escitalopram.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 dose by mouth once 
daily Refills:*0 
3.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
Please take every other day to minimize side effects and 
maximize GI iron absorption.  
5.  Escitalopram Oxalate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Internal hemorrhoidal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You had a significant amount of bleeding that caused you to 
feel short of breath when exerting yourself that required a 
blood transfusion   

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You received 2 units of blood
- Your blood counts were monitored and remained stable
- Our GI and surgery teams saw you and recommended follow-up 
with clinic visits for potentially another operation to treat 
your hemorrhoids

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please check your Hgb in 1 week or sooner if you note 
significant bleeding
- Please return to the ED if you feel short of breath, 
light-headed, or have chest pain which are all signs of 
significantly low blood counts.
- Please take stool softeners (Colace, Senna, Miralax) daily to 
minimize the risk of hemorrhoid irritation and re-bleeding.
- Please ensure adequate daily fiber intake to soften your 
stools
- Please take your iron supplements every other day to restore 
your iron levels as they are low.
- Please make a follow-up appointment with Dr. ___ to discuss 
further treatments for your hemorrhoids
- Please follow-up with your primary care provider so they can 
monitor your blood counts closely

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team 
 
Followup Instructions:
___